US04579848
N-[8-Methyl-5-(3-nitrophenyl)[1,2,4]triazolo[1,5-c]pyrimidin-2-yl ]acetamide
A 12.7 g portion of 8-methyl-5-(3-nitrophenyl)[1,2,4]triazolo[1,5-c]pyrimidin-2amine and 306 mg of 4-dimethylaminopyridine in 150 ml of pyridine:acetic anhydride (2:1) was refluxed with stirring for one hour. The solution was cooled and then evaporated to dryness. The residue was slurried in 100 ml of ether and the brown crystals collected. These were dissolved in 1200 ml of hot ethanol, filtered and the filtrate concentrated to 200 ml and cooled. The crystals were collected, giving 11.3 g of the desired product, mp 245°-247° C.

reactant | 8-methyl-5-(3-nitrophenyl)[1,2,4]triazolo[1,5-c]pyrimidin-2amine | CC=1C=2N(C(=NC1)C1=CC(=CC=C1)[N+](=O)[O-])N=C(N2)N | C12H10N6O2
reactant | pyridine acetic anhydride | 150 ml | N1=CC=CC=C1.C(C)(=O)OC(C)=O
catalyst | 4-dimethylaminopyridine | 306 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[8-Methyl-5-(3-nitrophenyl)[1,2,4]triazolo[1,5-c]pyrimidin-2-yl ]acetamide | 11.3 g | CC=1C=2N(C(=NC1)C1=CC(=CC=C1)[N+](=O)[O-])N=C(N2)NC(C)=O | C14H12N6O3
